US05216171
2-Diphenylphosphorylamino-4-trichloromethylpyridine
6.2 ml (0.03 mol) of diphenylphosphoryl chloride were added to 6.3 g (0.03 mol) of 2-amino -4trichloromethylpyridine and 60 ml of pryidine at 0° C. After 12 hours at 25° C., the reaction mixture was added to 200 ml of 5% strength hydrochloric acid. The colorless precipitate formed was isolated. 7.0 g (53%) of the desired product were obtained. Mp.: 134°-136° C.; Active Ingredient Example 1.016

reactant | diphenylphosphoryl chloride | 0.03 mol, 6.2 ml | C1(=CC=CC=C1)P(=O)(C1=CC=CC=C1)Cl | C12H10ClOP
reactant | 2-amino -4trichloromethylpyridine | 0.03 mol, 6.3 g | NC1=NC=CC(=C1)C(Cl)(Cl)Cl | C6H5Cl3N2
reactant | hydrochloric acid | Cl | ClH
product | 2-Diphenylphosphorylamino-4-trichloromethylpyridine | 7.0 g, 53% | C1(=CC=CC=C1)P(=O)(C1=CC=CC=C1)NC1=NC=CC(=C1)C(Cl)(Cl)Cl | C18H14Cl3N2OP
